US04052387
7-Phenoxyacetamido-3-Methylenecepham-4-carboxylic acid-1-oxide
To 200 ml. of dried toluene were added 4.95 g. (10 mmol) of 4'-methoxybenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide and 5.2 g. (50 mmol) of sodium bisulfite. The mixture was heated at reflux, and 1.5 g. (11 mmol) of N-chlorosuccinimide were added. The mixture then was stirred and refluxed for one hour after which it was cooled in an ice bath, and 1.3 gms. (11 mmol) of stannic chloride were added. The mixture then was stirred at room temperature for about 2 hours after which it was poured into a mixture of ethyl acetate and water. The organic layer was separated and washed successively with 5 percent hydrochloric acid and brine. The organic layer then was extracted with 5 percent sodium bicarbonate solution. The extract was slurried with ethyl acetate, and acidified to pH 2.5. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate, and concentrated in vacuo to a small volume from which 1.3 gms. (35 percent) of the title compound were obtained as crystals. Analysis of the product by nmr was consistent with the structure of the title compound.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium bisulfite | 50 mmol | S([O-])(O)=O.[Na+]
reactant | N-chlorosuccinimide | 11 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
product | 7-Phenoxyacetamido-3-Methylenecepham-4-carboxylic acid-1-oxide | 35 percent | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2=O)=C)C(=O)O)C1=O | C16H16N2O6S
